US05834461
N-[4-[(5,11-dihydro-10H-dibenz[b,e](1,4]diazepin-5-yl)carbonyl]phenyl]-2-methylbenzamide
A mixture of 1.0 g of 5,11-dihydro-10-dibenz [b,e][1,4]diazepine 1.9 g of 4-[(2-methylbenzoyl) amino]benzoyl chloride, 4 ml of triethylamine and 0.2 g of 4-(dimethylamino)pyridine in 60 ml of methylene chloride is stirred at room temperature for 18 hours. The reaction mixture is poured into ice water and the separated organic layer washed with 50 ml each of water, 2N HC1, water, saturated NaHCO3 and water. The organic layer is dried (Na2SO4) and the solvent removed to give a residue. The residue is chromatographed on a silica gel column using 1:4 ethyl acetatehexane to give 1.8 g of the desired product as a solid, m.p. 68°-71° C.

reactant | 4-[(2-methylbenzoyl) amino]benzoyl chloride | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(5,11-dihydro-10H-dibenz[b,e](1,4]diazepin-5-yl)carbonyl]phenyl]-2-methylbenzamide | 1.8 g | C1=CC=CC=2N(C3=C(NCC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C28H23N3O2
